US05591735
Preparation of 2β-(4-hydroxy-1-piperidinyl)-16β-(1-pyrrolidinyl)-5α-androstane-3α,17β-diol-diacetate
2β-(4-Oxo-1-piperidinyl)-16β-(1-pyrrolidinyl)-5α-androstane-3α,17β-diol-diacetate is reduced by sodium borohydride as described in Example 11 to give the foam-like title compound in a yield of 81%, Rf2 =0.55.

reactant | 2β-(4-Oxo-1-piperidinyl)-16β-(1-pyrrolidinyl)-5α-androstane-3α,17β-diol diacetate | O=C1CCN(CC1)[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C1)C)O)N1CCCC1)O.CC(=O)CC(=O)O
reactant | sodium borohydride | [BH4-].[Na+]
product | 2β-(4-hydroxy-1-piperidinyl)-16β-(1-pyrrolidinyl)-5α-androstane-3α,17β-diol diacetate | yield of 81% | OC1CCN(CC1)[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C1)C)O)N1CCCC1)O.CC(=O)CC(=O)O | InChI=1S/C28H48N2O3.C4H6O3/c1-27-10-7-21-20(22(27)16-23(26(27)33)29-11-3-4-12-29)6-5-18-15-25(32)24(17-28(18,21)2)30-13-8-19(31)9-14-30;1-3(5)2-4(6)7/h18-26,31-33H,3-17H2,1-2H3;2H2,1H3,(H,6,7)/t18-,20+,21-,22-,23-,24-,25-,26-,27-,28-;/m0./s1
